US08912169B2
Step 3: Synthesis of 3-Iodo-2-methoxy-benzoyl chloride
To 3-iodo-2-methoxy-benzoic acid (8.29 g, 29.8 mmol) was added thionyl chloride (15 mL). The resulting solution was stirred for 2 minutes then heated to 82° C. and stirred at this temperature for 30 minutes. The solution was then concentrated under reduced pressure to give the title compound. This material was used without further purification.

reactant | 3-iodo-2-methoxy-benzoic acid | 29.8 mmol, 8.29 g | IC=1C(=C(C(=O)O)C=CC1)OC | C8H7IO3
reactant | thionyl chloride | 15 mL | S(=O)(Cl)Cl | Cl2OS
product | 3-Iodo-2-methoxy-benzoyl chloride | IC=1C(=C(C(=O)Cl)C=CC1)OC | C8H6ClIO2
